US04022777
Two parts of 6-chloro-2-ethyl-1H-imidazo[4,5-b]quinoxaline was suspended in 40 parts of methanol. One part of concentrated HCl was added to give a solution. A solid formed at once and the slurry was cooled and filtered to give 2 parts of 6-chloro-2-ethyl-1H-imidazo[4,5-b]quinoxaline hydrochloride, m.p. 280°-282°.

reactant | 6-chloro-2-ethyl-1H-imidazo[4,5-b]quinoxaline | ClC=1C=C2N=C3C(=NC2=CC1)NC(=N3)CC | C11H9ClN4
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | 6-chloro-2-ethyl-1H-imidazo[4,5-b]quinoxaline hydrochloride | Cl.ClC=1C=C2N=C3C(=NC2=CC1)NC(=N3)CC | InChI=1S/C11H9ClN4.ClH/c1-2-9-15-10-11(16-9)14-8-5-6(12)3-4-7(8)13-10;/h3-5H,2H2,1H3,(H,13,14,15,16);1H
